US08895544B2
2-[6-(2-Ethyl-5-fluoro-4-methoxy-phenyl)-1H-indazol-3-yl]-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine trihydrochloride salt
To a solution of 2-[6-(2-ethyl-5-fluoro-4-methoxy-phenyl)-1-(tetrahydro-pyran-2-yl)-1H-indazol-3-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid tert-butyl ester (Preparation 30, 633 mg, 879 μmol) in methanol (20 mL) was added concentrated hydrochloric acid (12M, 8 mL) and the resulting solution was heated at 60° C. for 18 hours. A further amount of concentrated hydrochloric acid (12M, 4 mL) was added and the reaction mixture was heated at 60° C. for a further 18 hours. The reaction mixture was cooled to room temperature and concentrated in vacuo to furnish the title compound (410 mg).

reactant | 2-[6-(2-ethyl-5-fluoro-4-methoxy-phenyl)-1-(tetrahydro-pyran-2-yl)-1H-indazol-3-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid tert-butyl ester | 879 μmol, 633 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)N=C(N2COCC[Si](C)(C)C)C2=NN(C1=CC(=CC=C21)C2=C(C=C(C(=C2)F)OC)CC)C2OCCCC2 | C39H54FN5O5Si
reactant | hydrochloric acid | 12M, 8 mL | Cl | ClH
reactant | hydrochloric acid | 12M, 4 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 2-[6-(2-Ethyl-5-fluoro-4-methoxy-phenyl)-1H-indazol-3-yl]-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine trihydrochloride salt | 410 mg | Cl.Cl.Cl.C(C)C1=C(C=C(C(=C1)OC)F)C1=CC=C2C(=NNC2=C1)C1=NC2=C(CCNCC2)N1 | InChI=1S/C23H24FN5O.3ClH/c1-3-13-11-21(30-2)17(24)12-16(13)14-4-5-15-20(10-14)28-29-22(15)23-26-18-6-8-25-9-7-19(18)27-23;;;/h4-5,10-12,25H,3,6-9H2,1-2H3,(H,26,27)(H,28,29);3*1H
